US07834037B2
Step 3: 3-{3-tert-Butylsulfanyl-5-(6-fluoro-quinolin-2-ylmethoxy)-1-[4-(6-methoxy-pyridin-3-yl)-benzyl]-1H-indol-2-yl}-2,2-dimethyl-propionic acid ethyl ester
To 3-{3-tert-Butylsulfanyl-5-hydroxy-1-[4-(6-methoxy-pyridin-3-yl)-benzyl]-1H-indol-2-yl}-2,2-dimethyl-propionic acid ethyl ester (D-2; 6.5 g, 11.9 mmol) in MeCN (75 mL) was added 2-bromomethyl-6-fluoro-quinoline (3.14 g, 13.1 mmol), and Cs2CO3 (9.7 g, 29.8 mmol). The reaction was stirred at room temperature overnight, after which LCMS showed the reaction was complete. The reaction mixture was partitioned between EtOAc and water, the aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified on silica gel (0 to 25% EtOAc in hexanes) to give the desired product (D-3, 7.6 g).

reactant | 3-{3-tert-Butylsulfanyl-5-hydroxy-1-[4-(6-methoxy-pyridin-3-yl)-benzyl]-1H-indol-2-yl}-2,2-dimethyl-propionic acid ethyl ester | 11.9 mmol, 6.5 g | C(C)OC(C(CC=1N(C2=CC=C(C=C2C1SC(C)(C)C)O)CC1=CC=C(C=C1)C=1C=NC(=CC1)OC)(C)C)=O | C32H38N2O4S
reactant | 2-bromomethyl-6-fluoro-quinoline | 13.1 mmol, 3.14 g | BrCC1=NC2=CC=C(C=C2C=C1)F | C10H7BrFN
reactant | Cs2CO3 | 29.8 mmol, 9.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 75 mL | CC#N | C2H3N
product | 3-{3-tert-Butylsulfanyl-5-(6-fluoro-quinolin-2-ylmethoxy)-1-[4-(6-methoxy-pyridin-3-yl)-benzyl]-1H-indol-2-yl}-2,2-dimethyl-propionic acid ethyl ester | 7.6 g | C(C)OC(C(CC=1N(C2=CC=C(C=C2C1SC(C)(C)C)OCC1=NC2=CC=C(C=C2C=C1)F)CC1=CC=C(C=C1)C=1C=NC(=CC1)OC)(C)C)=O | C42H44FN3O4S
